US05108485
Preparation of Methyl 4-[(1-carbamoyl-1,2 dimethylpropyl)carbamoyl]-1,3-dimethyl-1H-indazole-5-carboxylate
A solution of 4-[(1-Carbamoyl-1,2-dimethylpropyl)carbamoyl]1,3-dimethyl-1H-indazole-5-carboxylic acid (0.720 g, 2.07 mmol) in dry dimethylformamide is treated with sufficient ethereal diazomethane to give a permanent yellow color. The excess diazomethane is quenched with acetic acid, and the reaction mixture is concentrated in vacuo. The resultant residue is chased 2 times with xylene recrystallized from 50% aqueous methanol to give the title product as a white solid, mp 221°-222° C.

reactant | 4-[(1-Carbamoyl-1,2-dimethylpropyl)carbamoyl]1,3-dimethyl-1H-indazole-5-carboxylic acid | 2.07 mmol, 0.720 g | C(N)(=O)C(C(C)C)(C)NC(=O)C1=C2C(=NN(C2=CC=C1C(=O)O)C)C | C17H22N4O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 4-[(1-carbamoyl-1,2 dimethylpropyl)carbamoyl]-1,3-dimethyl-1H-indazole-5-carboxylate | C(N)(=O)C(C(C)C)(C)NC(=O)C1=C2C(=NN(C2=CC=C1C(=O)OC)C)C | C18H24N4O4
